US08084448B2
F. 7-Hydroxymethyl-6,7-dihydrodibenzo[c,e]azepin-5-one
To a solution of 7-oxo-6,7-dihydro-5H-dibenzo[c,e]azepine-5-carboxylic acid methyl ester (120 mg, 0.45 mmol) in MeOH (5 mL) at 0° C. is added LiBH4 (20 mg, 0.9 mmol). The mixture is allowed to warm to RT and stirred there for 18 h. Additional LiBH4 is added until starting material is consumed. The solvent is removed under reduced pressure and water is added. The mixture is extracted with EtOAc and the organic phase is washed with brine and dried over magnesium sulfate. The solvent is removed under reduced pressure to give the title compound which is used directly in the next step.

reactant | 7-oxo-6,7-dihydro-5H-dibenzo[c,e]azepine-5-carboxylic acid methyl ester | 0.45 mmol, 120 mg | COC(=O)C1NC(C2=C(C3=C1C=CC=C3)C=CC=C2)=O | C16H13NO3
reactant | LiBH4 | 0.9 mmol, 20 mg | [Li+].[BH4-]
solvent | MeOH | 5 mL | CO | CH4O
product | 7-Hydroxymethyl-6,7-dihydrodibenzo[c,e]azepin-5-one | OCC1C2=C(C3=C(C(N1)=O)C=CC=C3)C=CC=C2 | C15H13NO2
